US09428456B2
N-[3-(4-Cyclohexylcarbamoyl-piperidin-1-ylmethyl)-phenyl]-nicotinamide
To a solution of 1-(3-amino-benzyl)-piperidine-4-carboxylic acid cyclohexylamide BB-1 (200 mg, 0.57 mmol) in DCM (5 mL) are added successively nicotinic acid (70 mg, 0.57 mmol), HOBT (154 mg, 1.14 mmol), DMAP (14 mg, 0.11 mmol) and DIPEA (0.29 mL, 1.7 mmol). A solution of EDC hydrochloride (163 mg, 0.85 mmol) in DCM (2 mL) is added and the reaction mixture is stirred for 4 days at RT. The mixture is diluted with DCM (10 mL) and washed twice with sat.aq. NaHCO3 (20 mL). The combined organic phases are dried over MgSO4 and filtered. The solvent is evaporated under reduced pressure. The residue is dissolved in acetonitrile and purified by prep. HPLC E. LCMS C: tR=0.56 min; [M+H]+=421.4. 1H-NMR (DMSO-d6): δ 1.1-1.3 (m, 5H), 1.5-1.7 (m, 9H), 1.8-1.9 (m, 2H), 2.0-2.1 (m, 1H), 2.84 (d, J=9, 2H), 3.4-3.5 (m, 3H), 7.03 (d, J=7, 1H), 7.30 (t, J=7, 1H), 7.5-7.8 (m, 4H), 8.29 (d, J=8, 1H), 8.7-8.8 (m, 1H), 9.11 (s, 1H), 10.4 (s, 1H).

reactant | 1-(3-amino-benzyl)-piperidine-4-carboxylic acid cyclohexylamide | 0.57 mmol, 200 mg | C1(CCCCC1)NC(=O)C1CCN(CC1)CC1=CC(=CC=C1)N | C19H29N3O
reactant | nicotinic acid | 0.57 mmol, 70 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | HOBT | 1.14 mmol, 154 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.7 mmol, 0.29 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDC hydrochloride | 0.85 mmol, 163 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.11 mmol, 14 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(4-Cyclohexylcarbamoyl-piperidin-1-ylmethyl)-phenyl]-nicotinamide | C1(CCCCC1)NC(=O)C1CCN(CC1)CC=1C=C(C=CC1)NC(C1=CN=CC=C1)=O | C25H32N4O2
